US04383945
To a solution of (6R,7R)-2,2-dimethyl-7-isocyano-1-aza-3-oxabicyclo[4.2.0]octan-8-one (500 mg) in tetrahydrofuran (15 ml) was added a solution of n-butyllithium in hexane (2.33 ml of 1.55 M solution) at -70° C. and the mixture was stirred at -70° C. for 15 minutes. A solution of acetone (0.265 ml) in tetrahydrofuran (2.4 ml) was added to the reaction mixture at -70° C. and the mixture was stirred at -70° C. for 25 minutes. Acetic acid (0.477 ml) was added to the mixture at -70° C. After stirring at -70° C. for 20 minutes, the mixture was evaporated in vacuo. The residue was dissolved in ethyl acetate (80 ml) and the solution was washed with aqueous sodium bicarbonate. The aqueous layer was separated and extracted with ethyl acetate (20 ml). The combined organic layers were washed with brine, dried over magnesium sulfate, and evaporated in vacuo. The crystalline residue was washed with isopropyl ether and filtered to give (6R,7R)-2,2-dimethyl-7-(1-hydroxy-1-methylethyl)-7-isocyano-1-aza-3-oxabicyclo[4.2.0]octan-8-one (460 mg).

reactant | (6R,7R)-2,2-dimethyl-7-isocyano-1-aza-3-oxabicyclo[4.2.0]octan-8-one | 500 mg | CC1(N2C([C@@H]([C@H]2CCO1)[N+]#[C-])=O)C | C9H12N2O2
reactant | n-butyllithium | C(CCC)[Li]
reactant | acetone | 0.265 ml | CC(=O)C | C3H6O
reactant | Acetic acid | 0.477 ml | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | hexane | 1.55 M, 2.33 ml | CCCCCC | C6H14
solvent | tetrahydrofuran | 2.4 ml | O1CCCC1 | C4H8O
product | (6R,7R)-2,2-dimethyl-7-(1-hydroxy-1-methylethyl)-7-isocyano-1-aza-3-oxabicyclo[4.2.0]octan-8-one | 460 mg | CC1(N2C([C@]([C@H]2CCO1)([N+]#[C-])C(C)(C)O)=O)C | C12H18N2O3
